US07981882B2
(+/−)-7-Chloro-3-benzyloxycarbonyl-6-(2-methylpyrrolidin-1-yl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine
Dissolve (+/−)-7-chloro-3-(2,2,2-trifluoroacetyl)-6-(2-methyl-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1 g, 2.77 mmol) in a mixture of methanol and 2 N NaOH solution (65 mL of 4:1) and stir at RT for 1 h. Concentrate to remove methanol and extract the mixture between DCM and water (300 mL of each). Dry (sodium sulfate) and concentrate to an oil. Dissolve the oil in DCM (200 mL) and add dimethylaminopyridine (20 mg), and dibenzyl dicarbonate (873 mg, 3.05 mmol) and stir at RT for 3 h. Concentrate the reaction and purify (silica gel chromatography, eluting with 5:95 to 15:85 EtOAc:hexanes) to give the title compound as a clear oil (775 mg, 70%).

reactant | (+/−)-7-chloro-3-(2,2,2-trifluoroacetyl)-6-(2-methyl-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.77 mmol, 1 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)N1C(CCC1)C | C17H20ClF3N2O
reactant | dibenzyl dicarbonate | 3.05 mmol, 873 mg | C(=O)(OCC1=CC=CC=C1)OC(=O)OCC1=CC=CC=C1 | C16H14O5
solvent | methanol | CO | CH4O
solvent | NaOH | 2 N, 65 mL | [OH-].[Na+]
catalyst | dimethylaminopyridine | 20 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | (+/−)-7-Chloro-3-benzyloxycarbonyl-6-(2-methylpyrrolidin-1-yl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 775 mg, 70% | ClC1=C(C2=C(CCN(CC2)C(=O)OCC2=CC=CC=C2)C=C1)N1C(CCC1)C | C23H27ClN2O2
